US07700641B2
A. Synthesis of (4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetic acid
Following the procedure as described in EXAMPLE 2, and making non-critical variations using ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetate to replace ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate, the title compound was obtained in 100% yield. The product was used directly in the next step.

reactant | ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetate | C(C)OC(CN1C(C2(C3=C(C=CC=C13)Br)COC1=C2C=C(C(=C1)F)F)=O)=O | C19H14BrF2NO4
reactant | ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)=O | C20H17NO6
product | (4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetic acid | 100% yield | BrC1=C2C3(C(N(C2=CC=C1)CC(=O)O)=O)COC1=C3C=C(C(=C1)F)F | C17H10BrF2NO4
